.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO4812-102_freq port1 port2 PARAMS: Cpar=9.8pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=1000
+ R2=0.091
+ C= {Cpar}
+ K1=0.0000836
+ K2=0.395
+ K3= {Ind}
+ K4=0.014
+ K5=0.00000933
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=307.2387256
.ends LPO4812-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO4812-102_imp port1 port2 PARAMS: Cpar=8.955pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=1000
+ R2=0.091
+ C= {Cpar}
+ K1=0.0000836
+ K2=0.395
+ K3= {Ind}
+ K4=0.014
+ K5=0.00000933
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=307.2387256
.ends LPO4812-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO4812-152_freq port1 port2 PARAMS: Cpar=12pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=980
+ R2=0.081
+ C= {Cpar}
+ K1=0.0000818
+ K2=0.761
+ K3= {Ind}
+ K4=0.0159
+ K5=0.00000945
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=352.5573477
.ends LPO4812-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO4812-152_imp port1 port2 PARAMS: Cpar=11.253pF Ind=1.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=980
+ R2=0.081
+ C= {Cpar}
+ K1=0.0000818
+ K2=0.761
+ K3= {Ind}
+ K4=0.0159
+ K5=0.00000945
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=352.5573477
.ends LPO4812-152_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO4812-222_freq port1 port2 PARAMS: Cpar=7.84pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=1070
+ R2=0.092
+ C= {Cpar}
+ K1=0.000106
+ K2=0.864
+ K3= {Ind}
+ K4=0.031
+ K5=0.00000842
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=535.4652563
.ends LPO4812-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO4812-222_imp port1 port2 PARAMS: Cpar=7.202pF Ind=2.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=1070
+ R2=0.092
+ C= {Cpar}
+ K1=0.000106
+ K2=0.864
+ K3= {Ind}
+ K4=0.031
+ K5=0.00000842
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=535.4652563
.ends LPO4812-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO4812-332_freq port1 port2 PARAMS: Cpar=3.95pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=320
+ R2=0.101
+ C= {Cpar}
+ K1=0.000106
+ K2=0.814
+ K3= {Ind}
+ K4=0.0514
+ K5=0.00000959
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1751.867499
.ends LPO4812-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO4812-332_imp port1 port2 PARAMS: Cpar=3.578pF Ind=3.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=320
+ R2=0.101
+ C= {Cpar}
+ K1=0.000106
+ K2=0.814
+ K3= {Ind}
+ K4=0.0514
+ K5=0.00000959
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1751.867499
.ends LPO4812-332_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO4812-472_freq port1 port2 PARAMS: Cpar=2.25pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=160
+ R2=0.212
+ C= {Cpar}
+ K1=0.000158
+ K2=1.08
+ K3= {Ind}
+ K4=0.0766
+ K5=0.00000959
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4678.498714
.ends LPO4812-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO4812-472_imp port1 port2 PARAMS: Cpar=2.024pF Ind=4.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=160
+ R2=0.212
+ C= {Cpar}
+ K1=0.000158
+ K2=1.08
+ K3= {Ind}
+ K4=0.0766
+ K5=0.00000959
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4678.498714
.ends LPO4812-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO4812-682_freq port1 port2 PARAMS: Cpar=1.85pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=49.8
+ R2=0.282
+ C= {Cpar}
+ K1=0.0000595
+ K2=1.48
+ K3= {Ind}
+ K4=0.0883
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8800.424179
.ends LPO4812-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO4812-682_imp port1 port2 PARAMS: Cpar=1.704pF Ind=6.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=49.8
+ R2=0.282
+ C= {Cpar}
+ K1=0.0000595
+ K2=1.48
+ K3= {Ind}
+ K4=0.0883
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8800.424179
.ends LPO4812-682_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO4812-103_freq port1 port2 PARAMS: Cpar=1.39pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=1
+ R2=0.406
+ C= {Cpar}
+ K1=0.0000595
+ K2=1.7
+ K3= {Ind}
+ K4=0.192
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11426.12562
.ends LPO4812-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO4812-103_imp port1 port2 PARAMS: Cpar=1.229pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=1
+ R2=0.406
+ C= {Cpar}
+ K1=0.0000595
+ K2=1.7
+ K3= {Ind}
+ K4=0.192
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11426.12562
.ends LPO4812-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO4812-153_freq port1 port2 PARAMS: Cpar=1.17pF Ind=15uH
X1 port1 port2 Model1A PARAMS:
+ R1=1
+ R2=0.616
+ C= {Cpar}
+ K1=0.0000595
+ K2=3.26
+ K3= {Ind}
+ K4=0.232
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20532.53244
.ends LPO4812-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO4812-153_imp port1 port2 PARAMS: Cpar=1.063pF Ind=15uH
X1 port1 port2 Model1D PARAMS:
+ R1=1
+ R2=0.616
+ C= {Cpar}
+ K1=0.0000595
+ K2=3.26
+ K3= {Ind}
+ K4=0.232
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20532.53244
.ends LPO4812-153_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO4812-223_freq port1 port2 PARAMS: Cpar=1.17pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=6500
+ R2=0.88
+ C= {Cpar}
+ K1=0.0004
+ K2=5.78
+ K3= {Ind}
+ K4=0.241
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4582.534396
.ends LPO4812-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO4812-223_imp port1 port2 PARAMS: Cpar=1.097pF Ind=22uH
X1 port1 port2 Model1D PARAMS:
+ R1=6500
+ R2=0.88
+ C= {Cpar}
+ K1=0.0004
+ K2=5.78
+ K3= {Ind}
+ K4=0.241
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4582.534396
.ends LPO4812-223_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO4812-333_freq port1 port2 PARAMS: Cpar=1.04pF Ind=33uH
X1 port1 port2 Model1A PARAMS:
+ R1=6500
+ R2=1.27
+ C= {Cpar}
+ K1=0.000495
+ K2=7.22
+ K3= {Ind}
+ K4=0.481
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6230.857842
.ends LPO4812-333_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO4812-333_imp port1 port2 PARAMS: Cpar=0.955pF Ind=33uH
X1 port1 port2 Model1D PARAMS:
+ R1=6500
+ R2=1.27
+ C= {Cpar}
+ K1=0.000495
+ K2=7.22
+ K3= {Ind}
+ K4=0.481
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6230.857842
.ends LPO4812-333_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO4812-473_freq port1 port2 PARAMS: Cpar=1.27pF Ind=47uH
X1 port1 port2 Model1A PARAMS:
+ R1=5950
+ R2=1.97
+ C= {Cpar}
+ K1=0.000592
+ K2=13.6
+ K3= {Ind}
+ K4=0.649
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7494.437821
.ends LPO4812-473_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO4812-473_imp port1 port2 PARAMS: Cpar=1.177pF Ind=47uH
X1 port1 port2 Model1D PARAMS:
+ R1=5950
+ R2=1.97
+ C= {Cpar}
+ K1=0.000592
+ K2=13.6
+ K3= {Ind}
+ K4=0.649
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7494.437821
.ends LPO4812-473_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-683
* Inductance = 68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-9MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO4812-683_freq port1 port2 PARAMS: Cpar=1.29pF Ind=68uH
X1 port1 port2 Model1A PARAMS:
+ R1=3280
+ R2=2.74
+ C= {Cpar}
+ K1=0.00113
+ K2=27.2
+ K3= {Ind}
+ K4=0.892
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14585.13741
.ends LPO4812-683_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-683
* Inductance = 68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-9MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO4812-683_imp port1 port2 PARAMS: Cpar=1.203pF Ind=68uH
X1 port1 port2 Model1D PARAMS:
+ R1=3280
+ R2=2.74
+ C= {Cpar}
+ K1=0.00113
+ K2=27.2
+ K3= {Ind}
+ K4=0.892
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14585.13741
.ends LPO4812-683_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-104
* Inductance = 100uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-8MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO4812-104_freq port1 port2 PARAMS: Cpar=1.16pF Ind=100uH
X1 port1 port2 Model1A PARAMS:
+ R1=3280
+ R2=3.94
+ C= {Cpar}
+ K1=0.00122
+ K2=29.6
+ K3= {Ind}
+ K4=1.45
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=21385.40396
.ends LPO4812-104_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-104
* Inductance = 100uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-8MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO4812-104_imp port1 port2 PARAMS: Cpar=1.076pF Ind=100uH
X1 port1 port2 Model1D PARAMS:
+ R1=3280
+ R2=3.94
+ C= {Cpar}
+ K1=0.00122
+ K2=29.6
+ K3= {Ind}
+ K4=1.45
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=21385.40396
.ends LPO4812-104_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-154
* Inductance = 150uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-8MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO4812-154_freq port1 port2 PARAMS: Cpar=0.95pF Ind=150uH
X1 port1 port2 Model1A PARAMS:
+ R1=2360
+ R2=6.44
+ C= {Cpar}
+ K1=0.00067
+ K2=64
+ K3= {Ind}
+ K4=1.45
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=51050.89026
.ends LPO4812-154_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-154
* Inductance = 150uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-8MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO4812-154_imp port1 port2 PARAMS: Cpar=0.905pF Ind=150uH
X1 port1 port2 Model1D PARAMS:
+ R1=2360
+ R2=6.44
+ C= {Cpar}
+ K1=0.00067
+ K2=64
+ K3= {Ind}
+ K4=1.45
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=51050.89026
.ends LPO4812-154_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-224
* Inductance = 220uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-8MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO4812-224_freq port1 port2 PARAMS: Cpar=1.08pF Ind=220uH
X1 port1 port2 Model1A PARAMS:
+ R1=1840
+ R2=9.7
+ C= {Cpar}
+ K1=0.00134
+ K2=89.2
+ K3= {Ind}
+ K4=2.89
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=77105.33088
.ends LPO4812-224_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO4812-224
* Inductance = 220uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-8MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO4812-224_imp port1 port2 PARAMS: Cpar=1.014pF Ind=220uH
X1 port1 port2 Model1D PARAMS:
+ R1=1840
+ R2=9.7
+ C= {Cpar}
+ K1=0.00134
+ K2=89.2
+ K3= {Ind}
+ K4=2.89
+ K5=0.00000983
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=77105.33088
.ends LPO4812-224_imp

